US06096780
A mixture of 2-bromo-N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-6,7-dihydro-5H-benzocyclohepten-8-carboxamide (0.95 g) and 4-methoxycarbonylphenylboronic acid (0.4 g) in 1M potassium carbonate (6 ml), ethanol (6 ml) and toluene (75 ml) was stirred for 30 minutes at room temperature under argon. Tetrakis(triphenylphosphine)palladium(0.12 g) was added to the mixture, and the mixture was refluxed for 6 hours under argon. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over MgSO4. The solvent was evaporated in vacuo. The residue was subjected to a silica gel column chromatography (ethyl acetate/methanol/triethylamine) to give 2-(4-methoxycarbonylphenyl)-N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-6,7-dihydro-5H-benzocyclohepten-8-carboxamide (0.4 g) as colorless prisms.

reactant | 2-bromo-N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-6,7-dihydro-5H-benzocyclohepten-8-carboxamide | 0.95 g | BrC=1C=CC2=C(C=C(CCC2)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1 | C25H29BrN2O2
reactant | 4-methoxycarbonylphenylboronic acid | 0.4 g | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
solvent | potassium carbonate | 1M, 6 ml | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium | 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-methoxycarbonylphenyl)-N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-6,7-dihydro-5H-benzocyclohepten-8-carboxamide | 0.4 g | COC(=O)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCC2)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1 | C33H36N2O4
